US04576746
Cis-(±)-4-[2-(acetoxy)ethenyl]-3-ethyl-2-azetidinone (20 g, 0.109 mole) is dissolved in ethyl acetate (150 ml) warming the mixture until complete solution. Then, 10% Palladium on carbon catalyst (1 g) is added and the starting compound is hydrogenated at room temperature and with a pressure of 3 atmosphere of hydrogen gas, in a Parr autoclave. After six hours the autoclave is discharged and the catalyst is filtered. The solvent is evaporated and the crude cis-(±)-4-[2-(acetoxy)ethyl]-3-ethyl-2-azetidinone (20 g) thus obtained is placed in a 250-ml flask equipped with a calcium chloride drying tube and a dry nitrogen inlet tube, charged with potassium carbonate (5 g, 3.6×10-2 mole) and anhydrous methanol (130 ml). The reaction mixture is stirred at room temperature for about one hour, then it is neutralized by the addition of citric acid (5.5 g, 2.9×10-2 mole), and filtered through a Buchner funnel. The solid on filter is washed with methanol (2×10 ml) and the filtrate plus the methanol washings are concentrated to dryness under reduced pressure. The residue thus obtained is dissolved in water (100 ml) and extracted with methylene chloride (3×20 ml). The combined methylene chloride extracts are washed with water (2×15 ml) and then discarded. The aqueous solutions are combined, saturated with ammonium sulfate and extracted with five 20-ml portions of ethyl acetate. The combined ethyl acetate extracts are dried over magnesium sulfate and the solvent is removed under reduced pressure to yield 10.4 g (67.3%) of cis-(±)-3-ethyl-4-(2-hydroxyethyl)-2-azetidinone II as a thick oil, sufficiently pure for the next step.

reactant | Cis-(±)-4-[2-(acetoxy)ethenyl]-3-ethyl-2-azetidinone | 0.109 mole, 20 g | C(C)(=O)OC=C[C@@H]1[C@@H](C(N1)=O)CC | C9H13NO3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 1 g | [Pd] | Pd
product | cis-(±)-4-[2-(acetoxy)ethyl]-3-ethyl-2-azetidinone | 20 g | C(C)(=O)OCC[C@@H]1[C@@H](C(N1)=O)CC | C9H15NO3
